### PR TITLE
Add  `padRight` and `truncate` to `Data.Vec`, and prove some properties

### PR DESCRIPTION
**Pull request by TOTBWF**
## Patch Description

This PR adds the following functions to `Data.Vec.Base`
```
truncate : ∀ {m n} → m ≤ n → Vec A n → Vec A m
pad : ∀ {m n} → m ≤ n → A → Vec A m → Vec A n
```

It also proves some properties of these two functions.

### CODE REVIEW

**Comment by gallais** [comment]
In [Bounded](https://agda.github.io/agda-stdlib/Data.Vec.Bounded.Base.html) we have:

```
padRight : ∀ {n} → A → Vec≤ A n → Vec A n
padLeft : ∀ {n} → A → Vec≤ A n → Vec A n
padBoth : ∀ {n} → A → A → Vec≤ A n → Vec A n
```

so we should probably stick to that naming convention.

**Comment by TOTBWF** [comment]
Yeah, that seems reasonable! Should we mark this as a breaking change then? If you import `Data.Vec.Bounded` and `Data.Vec`, you could get conflicts.

File: src/Data/Vec/Properties.agda [hunk 1]
```diff
@@ -155,6 +156,41 @@ take-drop-id (suc m) (x ∷ xs) = begin
...
+
+padRight-trans : ∀ {m n p} → (le₁ : m ≤ n) → (le₂ : n ≤ p) → (a : A) → (xs : Vec A m) →
+            padRight (≤-trans le₁ le₂) a xs ≡ padRight le₂ a (padRight le₁ a xs)
+padRight-trans z≤n       le₂       a []       = padRight-replicate le₂ a
+padRight-trans (s≤s le₁) (s≤s le₂) a (x ∷ xs) = cong (x ∷_) (padRight-trans le₁ le₂ a xs)
+
+--------------------------------------------------------------------------------
+-- truncate and padRight together
+
+truncate-padRight-id : ∀ {m n} → (le : m ≤ n) → (a : A) → (xs : Vec A m) → truncate le (padRight le a xs) ≡ xs
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda:190]: By convention this is just called `truncate-padRight`

File: src/Data/Vec/Properties.agda [hunk 2]
```diff
@@ -155,6 +156,41 @@ take-drop-id (suc m) (x ∷ xs) = begin
...
   ∎
 
+--------------------------------------------------------------------------------
+-- truncate
+
+truncate-refl : ∀ {n} → (xs : Vec A n) → truncate ≤-refl xs ≡ xs
+truncate-refl []       = refl
+truncate-refl (x ∷ xs) = cong (x ∷_) (truncate-refl xs)
+
+truncate-trans : ∀ {m n p} → (le₁ : m ≤ n) → (le₂ : n ≤ p) → (xs : Vec A p) →
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda:166]: Any chance we could give the inequalities in these proofs more meaningful names, i.e. `m≤n` rather than `le₁`? Don't forget to update the CHANGELOG as well!

File: src/Data/Vec/Properties.agda [hunk 3]
```diff
@@ -155,6 +156,41 @@ take-drop-id (suc m) (x ∷ xs) = begin
     x ∷ xs
   ∎
 
+--------------------------------------------------------------------------------
+-- truncate
+
+truncate-refl : ∀ {n} → (xs : Vec A n) → truncate ≤-refl xs ≡ xs
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda:162]: Sequences of named arguments don't require an arrow between them, e.g. `∀ {n} → (xs : Vec A n)` becomes `∀ {n} (xs : Vec A n)`. By convention the library doesn't put them in. Any chance you could go through and alter the ones in this file?

**Review by MatthewDaggitt — COMMENTED** [review]
Thanks for the great PR! A few minor cosmetic comments.

**Comment by MatthewDaggitt** [comment]
> Should we mark this as a breaking change then? If you import Data.Vec.Bounded and Data.Vec, you could get conflicts.

It's a good thought, but we add dozens of duplicated function names throughout the library every release so we tend not to. Also recent versions of Agda tends to give reasonable error messages for clashes so it's not too hard to debug the problem.

**Comment by MatthewDaggitt** [comment]
@TOTBWF any chance you have the time to make the minor changes from the reviews and then I'll merge this in?

**Comment by TOTBWF** [comment]
Sorry, I've been quite busy recently and this fell off my radar!

**Comment by MatthewDaggitt** [comment]
Thanks @gallais!
